US07371772B2
A suspension of methyl 9-bromo-1-isobutyl-2,3,4,5-tetrahydro-1H-1-benzoazonin-6-carboxylate (2.1 g) and 4-(2-butoxyethoxy)phenyl boric acid (1.77 g) and potassium carbonate (2.06 g) in toluene (25 ml), ethanol (2.5 ml) and water (2.5 ml) was stirred under argon atmosphere for 1 hour, and then tetrakis(triphenylphosphine)palladium (332 mg) was added. The mixture was refluxed for 5 hours. After returning to room temperature, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1→hexane:ethyl acetate=9:1) to give methyl 9-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-2,3,4,5-tetrahydro-1H-1-benzoazonin-6-carboxylate (2.7 g) as a yellow oily material.

reactant | methyl 9-bromo-1-isobutyl-2,3,4,5-tetrahydro-1H-1-benzoazonin-6-carboxylate | 2.1 g | BrC=1C=CC2=C(C=C(CCCCN2CC(C)C)C(=O)OC)C1 | C18H24BrNO2
reactant | 4-(2-butoxyethoxy)phenyl boric acid | 1.77 g | C(CCC)OCCOC1=CC=C(C=C1)OB(O)O | C12H19BO5
reactant | potassium carbonate | 2.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | water | 2.5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 332 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 9-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-2,3,4,5-tetrahydro-1H-1-benzoazonin-6-carboxylate | 2.7 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCCN2CC(C)C)C(=O)OC)C1 | C30H41NO4
